* C:\Users\ik76\Documents\GitHub\Levitron\OPSim\op.asc
R2 N004 +5 {RR}
R3 N003 N002 47k
R4 0 N001 5.6k
R7 N004 0 {R}
V3 N002 0 +1
V7 +12 0 +12
V8 +5 0 +5
XU1 N004 N003 +12 0 N001 LM324
R1 N001 N003 180k
.tran 50s startup uic
.param R=3K
.include LM324.txt
.param RR = 10k-{R}
.backanno
.end
